US04880809
In a manner as that described in Example 5, 2-indane carboxylic acid (0.8 g) is converted to the 2-indane carbonyl chloride by using thionyl chloride (2 ml) in toluene (10 ml). The product thus obtained is added to a mixture of 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (2.1 g), triethylamine (5.9 g) and N,N-dimethylformamide (20 ml). The whole mixture is left standing at room temperature for two hours. A mixture of water (300 ml) and ethyl acetate (300 ml) is added to the mixture, and the mixture is shaken thoroughly. The organic layer is separated, washed with water, dried and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (hexane:acetone=1:1) to give an oily product, which is converted to the hydrochloride in a mixture of methanol and ethyl acetate to give 1-(2-indanylcarbonyl)-4-(3,4,5-trimethoxybenzyl)-piperazine hydrochloride (1.1 g) as colorless crystals, m.p. 227°-232° C. (decomp.).

reactant | 2-indane carboxylic acid | 0.8 g | C1C(CC2=CC=CC=C12)C(=O)O | C10H10O2
reactant | 2-indane carbonyl chloride | C1C(CC2=CC=CC=C12)C(=O)Cl | C10H9ClO
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 2.1 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | hydrochloride | Cl | ClH
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 300 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 5.9 g | C(C)N(CC)CC | C6H15N
product | 1-(2-indanylcarbonyl)-4-(3,4,5-trimethoxybenzyl)-piperazine hydrochloride | 1.1 g | Cl.C1C(CC2=CC=CC=C12)C(=O)N1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C24H30N2O4.ClH/c1-28-21-12-17(13-22(29-2)23(21)30-3)16-25-8-10-26(11-9-25)24(27)20-14-18-6-4-5-7-19(18)15-20;/h4-7,12-13,20H,8-11,14-16H2,1-3H3;1H
